US07282605B2
Methyl 2-allyloctanoate
A solution of 0.345 g (1.0 mmol) of N-methyloxycarbonyl-N-(2-allyloctanoyl)-1-(R)-phenylethylamine in 5 ml of THF was cooled to 0° C., 0.386 g (2.0 mmol) of NaOMe (28% solution in methanol) was added, and the mixture was stirred for 22 hours. The reaction was terminated by addition of 2 ml of 1 N hydrochloric acid, and the product was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, the solvent was distilled off, and the residue was quantitated by GC. Thus was obtained 0.109 g (55%) of the title compound.

reactant | N-methyloxycarbonyl-N-(2-allyloctanoyl)-1-(R)-phenylethylamine | 1.0 mmol, 0.345 g | COC(=O)N(C(C(CCCCCC)CC=C)=O)[C@H](C)C1=CC=CC=C1 | C21H31NO3
reactant | NaOMe | 2.0 mmol, 0.386 g | C[O-].[Na+]
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 2-allyloctanoate | 0.109 g, 55% | C(C=C)C(C(=O)OC)CCCCCC | C12H22O2
